US03987047
2-Acetyl-5-acetoxy-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline by method B
A mixture of 3 gm (11 millimols) of 2-acetyl-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline 6-oxide, 80 ml of benzene and 23 ml of acetic acid anhydride was heated at its boiling point for 3 hours. Thereafter, the benzene was distilled off and the residue ws recrystallized from ether.

reactant | 2-acetyl-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline 6-oxide | 11 millimols, 3 gm | C(C)(=O)N1CC=2C(=[N+](C=3C=CC=CC3C2C)[O-])CCC1 | C16H18N2O2
reactant | acetic acid anhydride | 23 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 2-Acetyl-5-acetoxy-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline | C(C)(=O)N1CC=2C(=NC=3C=CC=CC3C2C)C(CC1)OC(C)=O | C18H20N2O3
